US04287118
Sodium antimonate obtained from U.S. Antimony Corporation (22.73 g, 0.0563 mole) was placed in the reaction vessel and the hexyl thioglycolate (100 ml, 0.5625 mole) added and stirred. Concentrated hydrochloric acid from Fisher Scientic Co. (9.52 ml, 0.1125 mole) was added dropwise, and an immediate temperature rise of 12° C. occurred. The mixture was thereafter heated and the byproduct of the reaction, water, was distilled over at 96° C. and collected. After 2 hours, a 92% yield of antimony (V) hexyl thioglycolate was obtained. The product was filtered to remove unreacted sodium antimonate and the additional byproduct of the reaction, sodium chloride.

reactant | Sodium antimonate | [Sb]([O-])([O-])([O-])=O.[Na+].[Na+].[Na+]
reactant | Antimony | [Sb] | Sb
reactant | hexyl thioglycolate | 0.5625 mole, 100 ml | C(CS)(=O)OCCCCCC | C8H16O2S
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | antimony (V) hexyl thioglycolate | 92% yield | C(CS)(=O)OCCCCCC.[Sb+5] | InChI=1S/C8H16O2S.Sb/c1-2-3-4-5-6-10-8(9)7-11;/h11H,2-7H2,1H3;/q;+5
